US07544672B2
5-(but-3-en-1-ynyl)-4-chloro-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine
A mixture of 4-(2-amino-4-chloro-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)but-3-ynyl 4-methylbenzenesulfonate (516 mg) and CsF (2.0 g) in DMF (7.0 mL) was heated to 70° C. for 1 h. Work-up and flash chromatogrpahy (1→3% MeOH in DCM) gave the title compound (280 mg), as a pale yellow oil. HPLC Rt=5.90 min.

reactant | 4-(2-amino-4-chloro-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)but-3-ynyl 4-methylbenzenesulfonate | 516 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC#CC1=CN(C=2N=C(N=C(C21)Cl)N)CC2=NC=C(C(=C2C)OC)C | C26H26ClN5O4S
reactant | CsF | 2.0 g | [F-].[Cs+]
reactant | MeOH | CO | CH4O
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(but-3-en-1-ynyl)-4-chloro-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 280 mg | C(#CC=C)C1=CN(C=2N=C(N=C(C21)Cl)N)CC2=NC=C(C(=C2C)OC)C | C19H18ClN5O
